US07534788B2
Step 1: 6-Chloro-5-methoxy-benzo[b]thiophene-2-carboxylic acid methyl ester
To a solution of 4-chloro-2-fluoro-5-methoxybenzaldehyde (0.821 g, 4.35 mmol) in 8.7 mL of DMSO were successively added K2CO3 (1.81 g, 3 eq.) and methyl thioglycolate (0.474 mL, 1.2 eq.), and the mixture was vigorously stirred at 50° C. for 2 h. After cooling, the reaction mixture was poured onto crashed ice/HCl, twofold extracted with AcOEt, washed with water, dried over sodium sulfate, and evaporated. Flash chromatography (SiO2, hexane/AcOEt=85/15), followed by crystallization from heptane/AcOEt, yielded 0.300 g of the title compound as off-white solid.

reactant | 4-chloro-2-fluoro-5-methoxybenzaldehyde | 4.35 mmol, 0.821 g | ClC1=CC(=C(C=O)C=C1OC)F | C8H6ClFO2
reactant | K2CO3 | 1.81 g, 3 eq. | C(=O)([O-])[O-].[K+].[K+]
reactant | methyl thioglycolate | 0.474 mL, 1.2 eq. | C(CS)(=O)OC | C3H6O2S
solvent | DMSO | 8.7 mL | CS(=O)C | C2H6OS
product | 6-Chloro-5-methoxy-benzo[b]thiophene-2-carboxylic acid methyl ester | 0.300 g | COC(=O)C1=CC2=C(S1)C=C(C(=C2)OC)Cl | C11H9ClO3S
